US04451470
17-(Cyclobutylmethyl)-4,5-epoxy-14-fluoro-3-hydroxymorphinan-6-one
17'-(Cyclobutylmethyl)-4',5'-epoxy-14'-fluorospiro-[1,3-dioxolane-2,6'-morphinan]-3'-ol (1.3 g) was added to a solution of oxalic acid (4.8 g in 80 ml of water) and heated at reflux for a period of 18 hours. The reaction mixture was cooled, and then basified with ammonia to pH 9.2. The precipitated solids were collected by filtration, washed with water, and air dried. The crude material melted at 100° with slight softening and sintering at 93°. The infrared spectrum indicated the presence of a carbonyl group (C=O), 1700 cm-1.

reactant | 17'-(Cyclobutylmethyl)-4',5'-epoxy-14'-fluorospiro-[1,3-dioxolane-2,6'-morphinan]-3'-ol | 1.3 g | C1(CCC1)CN1[C@H]2[C@@]3(CCC4(C5[C@@]3(C=3C(=C(C=CC3C2)O)O5)CC1)OCCO4)F | C23H28FNO4
reactant | ammonia | N | H3N
solvent | oxalic acid | 80 ml, 4.8 g | C(C(=O)O)(=O)O | C2H2O4
product | 17-(Cyclobutylmethyl)-4,5-epoxy-14-fluoro-3-hydroxymorphinan-6-one | C1(CCC1)CN1[C@H]2[C@@]3(CCC(C4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)F | C21H24FNO3
